US06667312B2
Using the general method of Example 1 Part D, N4-(4-chlorobutyl)quinoline-3,4-diamine (30 g, 0.12 mole) was cyclized using trimethyl orthopropionate (23.3 g, 0.13 mol) in the presence of a catalytic amount of pyridine hydrochloride to provide 25.1 g of 1-(4-chlorobutyl)-2-ethyl-1H-imidazo[4,5-c]quinoline as solid.

reactant | N4-(4-chlorobutyl)quinoline-3,4-diamine | 0.12 mole, 30 g | ClCCCCNC1=C(C=NC2=CC=CC=C12)N | C13H16ClN3
reactant | trimethyl orthopropionate | 0.13 mol, 23.3 g | C(CC)(OC)(OC)OC | C6H14O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 1-(4-chlorobutyl)-2-ethyl-1H-imidazo[4,5-c]quinoline | 25.1 g | ClCCCCN1C(=NC=2C=NC=3C=CC=CC3C21)CC | C16H18ClN3
